US07718645B2
The title compound of Preparation 4 was prepared as follows. 4M HCl in dioxane (0.5 mL) was added to a solution of methyl 2-(4-(4-(N-(2-(tert-butyldimethylsilyloxy)ethyl)-4,6-dichloropyrimidine-5-carboxamido)-3-fluorophenyl)cyclohexyl)acetate (30 mg, 0.05 mmol) in methanol (1 mL). The mixture was stirred at 23° C. for 30 minutes. The reaction mixture was concentrated to remove solvent. The residue was dissolved in acetonitrile (1 mL) and NEt3 (0.05 mL) was added to it. The reaction mixture was stirred at 80° C. for 18 hours. EtOAc (15 mL) and water (15 mL) were added to reaction mixture. The organic layer was separated and dried over MgSO4 and concentrated. The crude material was purified by a 4 g silica gel column eluted with 30-50% EtOAc in heptane to give methyl 2-(4-(4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetate a colorless oil (20 mg). m/z=448.4 (M+1).

reactant | HCl | 4M | Cl | ClH
reactant | methyl 2-(4-(4-(N-(2-(tert-butyldimethylsilyloxy)ethyl)-4,6-dichloropyrimidine-5-carboxamido)-3-fluorophenyl)cyclohexyl)acetate | 0.05 mmol, 30 mg | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)C=1C(=NC=NC1Cl)Cl)C1=C(C=C(C=C1)C1CCC(CC1)CC(=O)OC)F | C28H38Cl2FN3O4Si
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
product | methyl 2-(4-(4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)-3-fluorophenyl)cyclohexyl)acetate | ClC1=NC=NC2=C1C(N(CCO2)C2=C(C=C(C=C2)C2CCC(CC2)CC(=O)OC)F)=O | C22H23ClFN3O4
